US05750305
Preparation of 3-(2-(α-(4-Methylphenylsulfonamido)benzylidene)-2-cyanoacetamido)phenyl methacrylate (compound 8, Table 1)
To a mixture of 4.89 g (20 mmol) of 3-(2-cyanoacetamido)phenyl methacrylate, 5.88 g (20 mmol) of N-(4-methylphenylsulfonyl)benzenecarboximidoyl chloride and 200 ml of methylene chloride was added dropwise 4.05 g (40 mmol) of triethylamine with 10 ml of methylene chloride rinse. The resultant solution was stirred for 1 hr and washed twice with 10% HCl and once with water. The solution was dried over magnesium sulfate and concentrated after adding t-butylpyrocatechol inhibitor. The solid residue was treated with ligroine, collected and recrystallized from ethanol.

reactant | 3-(2-cyanoacetamido)phenyl methacrylate | 20 mmol, 4.89 g | C(C(=C)C)(=O)OC1=CC(=CC=C1)NC(CC#N)=O | C13H12N2O3
reactant | N-(4-methylphenylsulfonyl)benzenecarboximidoyl chloride | 20 mmol, 5.88 g | CC1=CC=C(C=C1)S(=O)(=O)N=C(C1=CC=CC=C1)Cl | C14H12ClNO2S
reactant | triethylamine | 40 mmol, 4.05 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-(α-(4-Methylphenylsulfonamido)benzylidene)-2-cyanoacetamido)phenyl methacrylate | C(C(=C)C)(=O)OC1=CC(=CC=C1)NC(C(C#N)=C(C1=CC=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)C)=O | C27H23N3O5S
